* BSD 3-Clause License
*
* Copyright (c) 2026 <Sungwoo Jung, Cheng-Yu Tsai, Amaan Rahman, Junsik Yoon, Sandra Maria Shaji, Sung Kyu Lim >, University of Southern California
*
* Redistribution and use in source and binary forms, with or without
* modification, are permitted under the BSD 3-Clause License.
* See the LICENSE file in the project root for full license terms.


.SUBCKT AND2x1 A B VDD VSS Y
MM1 net12 A VDD pmos_lvt l=0.012u wgaa=0.03u
MM3 net12 B VDD pmos_lvt l=0.012u wgaa=0.03u
MM5 Y net12 VDD pmos_lvt l=0.012u wgaa=0.03u

MM2 Y net12 VSS nmos_lvt l=0.012u wgaa=0.03u
MM4 net7 B VSS nmos_lvt l=0.012u wgaa=0.03u
MM6 net12 A net7 nmos_lvt l=0.012u wgaa=0.03u
.ENDS AND2x1


.SUBCKT AND3x1 A B C VDD VSS Y
MM8 net18 B VDD pmos_lvt l=0.012u wgaa=0.03u
MM4 Y net18 VDD pmos_lvt l=0.012u wgaa=0.03u
MM1 net18 A VDD pmos_lvt l=0.012u wgaa=0.03u
MM13 net18 C VDD pmos_lvt l=0.012u wgaa=0.03u

MM2 net18 A net12 nmos_lvt l=0.012u wgaa=0.03u
MM12 net19 C VSS nmos_lvt l=0.012u wgaa=0.03u
MM6 Y net18 VSS nmos_lvt l=0.012u wgaa=0.03u
MM7 net12 B net19 nmos_lvt l=0.012u wgaa=0.03u
.ENDS AND3x1


.SUBCKT AND4x1 A B C D VDD VSS Y
MM9  net18 B VDD pmos_lvt l=0.012u wgaa=0.03u
MM15 net18 D VDD pmos_lvt l=0.012u wgaa=0.03u 
MM3  net18 A VDD pmos_lvt l=0.012u wgaa=0.03u 
MM12 net18 C VDD pmos_lvt l=0.012u wgaa=0.03u 
MM6  Y net18 VDD pmos_lvt l=0.012u wgaa=0.03u 

MM5  net12 B net24 nmos_lvt l=0.012u wgaa=0.03u 
MM13 net24 D VSS nmos_lvt l=0.012u wgaa=0.03u 
MM2  net18 A net12 nmos_lvt l=0.012u wgaa=0.03u 
MM10 net22 C net24 nmos_lvt l=0.012u wgaa=0.03u 
MM7  Y net18 VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AND4x1


.SUBCKT AOI21x1 A B C VDD VSS Y
MM30 net80 C VDD pmos_lvt l=0.012u wgaa=0.03u 
MM33 Y A net80 pmos_lvt l=0.012u wgaa=0.03u 
MM34 Y B net80 pmos_lvt l=0.012u wgaa=0.03u 

MM31 Y C VSS nmos_lvt l=0.012u wgaa=0.03u 
MM26 net76 B VSS nmos_lvt l=0.012u wgaa=0.03u 
MM29 Y A net76 nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI21x1


.SUBCKT AOI221x1 A B C D E VDD VSS Y
MM28 net015 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM30 net15 C Y VDD pmos_lvt l=0.012u wgaa=0.03u 
MM32 net15 D Y VDD pmos_lvt l=0.012u wgaa=0.03u 
MM3  net015 E net15 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM34 net015 A VDD VDD pmos_lvt l=0.012u wgaa=0.03u 

MM23 Y C net25 nmos_lvt l=0.012u wgaa=0.03u 
MM0  net25 B VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM27 net20 D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM25 Y E VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM6  Y A net25 VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI221x1


.SUBCKT AOI222x1 A B C D E F VDD VSS Y
MM14 Y B net55 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM6 net25 E VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM9 net55 C net25 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM8 net55 D net25 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM10 Y A net55 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM12 net25 F VDD VDD pmos_lvt l=0.012u wgaa=0.03u 

MM5 net47 B VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM3 Y A net47 nmos_lvt l=0.012u wgaa=0.03u 
MM9 net55 F VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM2 Y C net52 nmos_lvt l=0.012u wgaa=0.03u 
MM7 Y E net55 nmos_lvt l=0.012u wgaa=0.03u 
MM6 net52 D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI222x1


.SUBCKT AOI22x1 A B C D VDD VSS Y
MM18 Y D net61 pmos_lvt l=0.012u wgaa=0.03u 
MM27 net61 B VDD pmos_lvt l=0.012u wgaa=0.03u 
MM16 net61 A VDD pmos_lvt l=0.012u wgaa=0.03u 
MM11 Y C net61 pmos_lvt l=0.012u wgaa=0.03u 

MM15 Y B net38 nmos_lvt l=0.012u wgaa=0.03u 
MM21 net65 C VSS nmos_lvt l=0.012u wgaa=0.03u 
MM17 Y D net65 nmos_lvt l=0.012u wgaa=0.03u 
MM16 net38 A VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI22x1


.SUBCKT AOI311x1 A B C D E VDD VSS Y
MM10 net026 D net19 VDD pmos_lvt l=0.012u wgaa=0.03u
MM8 net19 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM2 Y E net026 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM11 net19 C VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM4 net19 A VDD VDD pmos_lvt l=0.012u wgaa=0.03u 

MM4 net34 B net27 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM3 net27 C VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM2 Y A net34 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM1 Y E VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM7 Y D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI311x1


.SUBCKT AOI31x1 A B C D VDD VSS Y
MM15 net90 A VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM28 net90 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM30 net90 C VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM18 Y D net90 pmos_lvt l=0.012u wgaa=0.03u 

MM27 net96 B net101 nmos_lvt l=0.012u wgaa=0.03u 
MM14 Y A net96 nmos_lvt l=0.012u wgaa=0.03u 
MM17 net101 C VSS nmos_lvt l=0.012u wgaa=0.03u 
MM21 Y D VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS AOI31x1


.SUBCKT BUFx1 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS BUFx1


.SUBCKT BUFx10 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=3
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=10

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=3
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=10
.ENDS BUFx10


.SUBCKT BUFx2 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=2

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=2
.ENDS BUFx2


.SUBCKT BUFx3 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=3

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=3
.ENDS BUFx3


.SUBCKT BUFx4 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=4

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=4
.ENDS BUFx4


.SUBCKT BUFx5 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=5

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=5
.ENDS BUFx5


.SUBCKT BUFx6 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=6

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=6
.ENDS BUFx6


.SUBCKT BUFx7 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=7

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=7
.ENDS BUFx7


.SUBCKT BUFx8 A VDD VSS Y
MM1 net11 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y net11 VDD pmos_lvt l=0.012u wgaa=0.03u m=8

MM2 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net11 VSS nmos_lvt l=0.012u wgaa=0.03u m=8
.ENDS BUFx8


.SUBCKT DFFHQNx1 CK D QN VDD VSS
MM20 SH ckb pd4 pmos_lvt l=0.012u wgaa=0.03u 
MM9 MS MH VDD pmos_lvt l=0.012u wgaa=0.03u 
MM17 SS SH VDD pmos_lvt l=0.012u wgaa=0.03u 
MM12 MH ckn pd2 pmos_lvt l=0.012u wgaa=0.03u 
MM8 pd2 MS VDD pmos_lvt l=0.012u wgaa=0.03u 
MM24 ckb ckn VDD pmos_lvt l=0.012u wgaa=0.03u 
MM23 pd4 SS VDD pmos_lvt l=0.012u wgaa=0.03u 
MM29 QN SH VDD pmos_lvt l=0.012u wgaa=0.03u 
MM25 ckn CK VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM15 MS ckn SH VDD pmos_lvt l=0.012u wgaa=0.03u 
MM2 MH ckb pu1 pmos_lvt l=0.012u wgaa=0.03u 
MM6 pu1 D VDD VDD pmos_lvt l=0.012u wgaa=0.03u 

MM5 pd3 MS VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM3 pd1 D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM14 SH ckn pd5 nmos_lvt l=0.012u wgaa=0.03u 
MM1 MH ckn pd1 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM11 SS SH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM13 pd5 SS VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM16 ckn CK VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM10 MS ckb SH nmos_lvt l=0.012u wgaa=0.03u 
MM4 MS MH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM21 ckb ckn VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM26 QN SH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM7 MH ckb pd3 VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS DFFHQNx1


.SUBCKT DFFHx1 CK D Q VDD VSS
MM64 net0114 SH VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM63 Q net0114 VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM60 MS ckn SH VDD pmos_lvt l=0.012u wgaa=0.03u 
MM59 pu1 D VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM58 MH ckb pu1 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM57 SS SH VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM56 MS MH VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM49 pd4 SS VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM45 ckn CK VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM48 MH ckn pd2 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM47 SH ckb pd4 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM50 pd2 MS VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM46 ckb ckn VDD VDD pmos_lvt l=0.012u wgaa=0.03u 

MM62 Q net0114 VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM61 net0114 SH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM55 MS ckb SH VSS nmos_lvt l=0.012u wgaa=0.03u 
MM44 SH ckn pd5 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM54 SS SH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM53 MS MH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM52 MH ckn pd1 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM51 pd1 D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM43 MH ckb pd3 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM39 pd3 MS VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM40 pd5 SS VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM42 ckb ckn VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM41 ckn CK VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS DFFHx1


.SUBCKT DHLx1 CK D Q VDD VSS
MM1 MH ckn pu1 VDD pmos_lvt l=0.012u wgaa=0.03u 
MM3 pu1 D VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM13 ckb ckn VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM25 Q MH VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM12 ckn CK VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM7 net088 MH VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM11 pd2 net088 VDD VDD pmos_lvt l=0.012u wgaa=0.03u 
MM10 MH ckb pd2 VDD pmos_lvt l=0.012u wgaa=0.03u 

MM5 pd1 D VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM4 MH ckb pd1 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM2 ckb ckn VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM0 ckn CK VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM24 Q MH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM6 net088 MH VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
MM9 MH ckn pd3 VSS nmos_lvt l=0.012u wgaa=0.03u 
MM8 pd3 net088 VSS VSS nmos_lvt l=0.012u wgaa=0.03u 
.ENDS DHLx1


.SUBCKT INVx1 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=1
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=1
.ENDS INVx1


.SUBCKT INVx10 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=10
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=10
.ENDS INVx10


.SUBCKT INVx12 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=12
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=12
.ENDS INVx12


.SUBCKT INVx14 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=14
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=14
.ENDS INVx14


.SUBCKT INVx16 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=16
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=16
.ENDS INVx16


.SUBCKT INVx2 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=2
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=2
.ENDS INVx2


.SUBCKT INVx3 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=3
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=3
.ENDS INVx3


.SUBCKT INVx4 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=4
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=4
.ENDS INVx4


.SUBCKT INVx5 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=5
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=5
.ENDS INVx5


.SUBCKT INVx6 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=6
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=6
.ENDS INVx6


.SUBCKT INVx7 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=7
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=7
.ENDS INVx7


.SUBCKT INVx8 A VDD VSS Y
MM0 Y A VDD pmos_lvt wgaa=0.030u l=0.012u m=8
MM1 Y A VSS nmos_lvt wgaa=0.030u l=0.012u m=8
.ENDS INVx8


.SUBCKT MUX2x1 A B S VDD VSS Y
MM1 net12 S VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 net12 S VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM6 net20 net12 A pmos_lvt l=0.012u wgaa=0.03u m=1
MM8 net20 S B pmos_lvt l=0.012u wgaa=0.03u m=1
MM2 Y net20 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM3 Y net20 VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM5 net20 net12 A nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net20 S B nmos_lvt l=0.012u wgaa=0.03u m=1
MM9 Y net20 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM10 Y net20 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS MUX2x1


.SUBCKT NAND2x1 A B VDD VSS Y
MM5 Y B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM12 Y A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM4 Y B net10 nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net10 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NAND2x1


.SUBCKT NAND2x2 A B VDD VSS Y
MM5 Y B VDD pmos_lvt l=0.012u wgaa=0.03u m=2
MM12 Y A VDD pmos_lvt l=0.012u wgaa=0.03u m=2

MM4 Y B net10 nmos_lvt l=0.012u wgaa=0.03u m=2
MM7 net10 A VSS nmos_lvt l=0.012u wgaa=0.03u m=2
.ENDS NAND2x2


.SUBCKT NAND3x1 A B C VDD VSS Y
MM0 Y C VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM12 Y A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM2 net9 B net10 nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y C net9 nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net10 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NAND3x1


.SUBCKT NAND3x2 A B VDD VSS Y
MM0 Y C VDD pmos_lvt l=0.012u wgaa=0.03u m=2
MM5 Y B VDD pmos_lvt l=0.012u wgaa=0.03u m=2
MM12 Y A VDD pmos_lvt l=0.012u wgaa=0.03u m=2

MM2 net9 B net10 nmos_lvt l=0.012u wgaa=0.03u m=2
MM4 Y C net9 nmos_lvt l=0.012u wgaa=0.03u m=2
MM7 net10 A VSS nmos_lvt l=0.012u wgaa=0.03u m=2
.ENDS NAND3x2


.SUBCKT NAND4x1 A B C D VDD VSS Y
MM0 Y D VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y C VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM12 Y B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM15 Y A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM2 net9 C net10 nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y D net9 nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net10 B net11 nmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net11 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NAND4x1


.SUBCKT NOR2x1 A B VDD VSS Y
MM1 net20 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y B net20 pmos_lvt l=0.012u wgaa=0.03u m=1

MM2 Y B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM6 Y A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NOR2x1


.SUBCKT NOR2x2 A B VDD VSS Y
MM5 Y B net24 pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 net24 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 net18 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM9 Y B net18 pmos_lvt l=0.012u wgaa=0.03u m=1

MM4 Y B VSS nmos_lvt l=0.012u wgaa=0.03u m=2
MM0 Y A VSS nmos_lvt l=0.012u wgaa=0.03u m=2
.ENDS NOR2x2


.SUBCKT NOR3x1 A B C VDD VSS Y
MM4 Y C net21 pmos_lvt l=0.012u wgaa=0.03u m=1
MM2 net21 B net19 pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 net19 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM0 Y A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM6 Y C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NOR3x1


.SUBCKT NOR3x2 A B C VDD VSS Y
MM8 net9 B net4 pmos_lvt l=0.012u wgaa=0.03u m=2
MM12 Y C net9 pmos_lvt l=0.012u wgaa=0.03u m=2
MM3 net4 A VDD pmos_lvt l=0.012u wgaa=0.03u m=2

MM6 Y A VSS nmos_lvt l=0.012u wgaa=0.03u m=2
MM15 Y C VSS nmos_lvt l=0.012u wgaa=0.03u m=2
MM13 Y B VSS nmos_lvt l=0.012u wgaa=0.03u m=2
.ENDS NOR3x2


.SUBCKT NOR4x1 A B C D VDD VSS Y
MM7 Y D net23 pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 net23 C net21 pmos_lvt l=0.012u wgaa=0.03u m=1
MM2 net21 B net19 pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 net19 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM0 Y A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM6 Y C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM8 Y D VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS NOR4x1


.SUBCKT OAI21x1 A B C VDD VSS Y
MM29 Y C VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM24 net71 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM31 Y A net71 pmos_lvt l=0.012u wgaa=0.03u m=1

MM34 Y B net89 nmos_lvt l=0.012u wgaa=0.03u m=1
MM25 net89 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM28 Y A net89 nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI21x1


.SUBCKT OAI22x1 A B C D VDD VSS Y
MM26 net72 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM33 Y B net72 pmos_lvt l=0.012u wgaa=0.03u m=1
MM31 net98 C VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM36 Y D net98 pmos_lvt l=0.012u wgaa=0.03u m=1

MM27 net92 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM30 Y A net92 nmos_lvt l=0.012u wgaa=0.03u m=1
MM35 net92 D VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM33 Y B net92 nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI22x1


.SUBCKT OAI31x1 A B C D VDD VSS Y
MM26 net71 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM31 net117 B net71 pmos_lvt l=0.012u wgaa=0.03u m=1
MM34 Y C net117 pmos_lvt l=0.012u wgaa=0.03u m=1
MM24 Y D VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM33 Y B net89 nmos_lvt l=0.012u wgaa=0.03u m=1
MM30 Y A net89 nmos_lvt l=0.012u wgaa=0.03u m=1
MM39 Y C net89 nmos_lvt l=0.012u wgaa=0.03u m=1
MM25 net89 D VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI31x1


.SUBCKT OAI221x1 A B C D E VDD VSS Y
MM27 net051 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 Y E VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y A net044 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM0 net045 D VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM3 Y C net045 VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM11 VSS B net041 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM13 VSS A net041 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM6 net049 E Y VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM8 net041 C net048 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net041 D net048 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI221x1


.SUBCKT OAI222x1 A B C D E F VDD VSS Y
MM7 net29 F VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM8 Y E net29 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM2 net33 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 Y A net33 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM3 Y C net26 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 net26 D VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM13 net012 F VSS VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 Y A net012 nmos_lvt l=0.012u wgaa=0.03u m=1
MM10 net012 E VSS VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM11 net015 C net012 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM9 net015 D net012 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM12 Y B net015 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI222x1


.SUBCKT OAI311x1 A B C D E VDD VSS Y
MM15 net038 C VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM8 Y E VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM2 net32 B net038 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM5 Y D VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y A net32 VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM25 VSS C net013 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM10 VSS A net013 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM5 net019 E Y VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM12 net013 D net019 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 VSS B net013 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OAI311x1


.SUBCKT OR2x1 A B VDD VSS Y
MM4 net32 B VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM6 Y net23 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM1 net23 A net32 pmos_lvt l=0.012u wgaa=0.03u m=1

MM6 Y net23 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM0 net23 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM8 net23 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OR2x1


.SUBCKT OR3x1 A B C VDD VSS Y
MM7 Y net33 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM0 net33 A VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4 net39 B net29 pmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net33 C net39 pmos_lvt l=0.012u wgaa=0.03u m=1

MM12 net33 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM3 net33 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4 Y net33 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM2 net33 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OR3x1


.SUBCKT OR4x1 A B C D VDD VSS Y
MM7  Y net33 VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM0  net33 A VDD VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM4  net39 B net29 pmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net41 C net39 pmos_lvt l=0.012u wgaa=0.03u m=1
MM18 net33 D net41 pmos_lvt l=0.012u wgaa=0.03u m=1

MM12 net33 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM3  net33 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM4  Y net33 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM2  net33 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM16 net33 D VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS OR4x1


.SUBCKT XNOR2x1 A B VDD VSS Y
MM30 net83 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM22 net83 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM27 Y A net66 pmos_lvt l=0.012u wgaa=0.03u m=1
MM26 net66 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM21 net83 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM21 net62 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM33 net80 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM31 net80 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM26 Y net83 net80 nmos_lvt l=0.012u wgaa=0.03u m=1
MM28 net83 A net62 nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS XNOR2x1


.SUBCKT XNOR3x1 A B C VDD VSS Y
MM30 net83 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM22 net83 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM27 net66 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM26 net66 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM21 net83 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM34 Y C net66 pmos_lvt l=0.012u wgaa=0.03u m=1
MM35 Y net83 VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM21 net62 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM33 net80 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM31 net80 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM26 Y net83 net80 nmos_lvt l=0.012u wgaa=0.03u m=1
MM28 net83 A net62 nmos_lvt l=0.012u wgaa=0.03u m=1
MM36 net66 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM37 Y net66 net80 nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS XNOR3x1


.SUBCKT XOR2x1 A B VDD VSS Y
MM11 net21 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM19 net34 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM17 Y net21 net35 pmos_lvt l=0.012u wgaa=0.03u m=1
MM12 net21 A net26 pmos_lvt l=0.012u wgaa=0.03u m=1
MM13 net35 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1

MM17 net43 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM15 Y A net43 nmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net21 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM15 Y net21 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net21 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS XOR2x1


.SUBCKT XOR3x1 A B C VDD VSS Y
MM11 net21 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM19 net34 B VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM17 net45 C VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM12 net21 A net26 pmos_lvt l=0.012u wgaa=0.03u m=1
MM13 net35 A VDD pmos_lvt l=0.012u wgaa=0.03u m=1
MM20 Y net21 net35 pmos_lvt l=0.012u wgaa=0.03u m=1
MM21 Y net45 net34 pmos_lvt l=0.012u wgaa=0.03u m=1

MM18 net43 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM15 Y A net43 nmos_lvt l=0.012u wgaa=0.03u m=1
MM14 net21 A VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM16 Y net21 VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM7 net21 B VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM22 net34 C VSS nmos_lvt l=0.012u wgaa=0.03u m=1
MM23 Y net45 net34 nmos_lvt l=0.012u wgaa=0.03u m=1
.ENDS XOR3x1